US07553836B2
Step E. Preparation of 7-(4-chlorophenyl)-2-(3-methoxy-4-(2-oxo-2-(pyrrolidin-1-yl)ethoxy)phenyl)-3,4-dihydropyrrolo[1,2-a]pyrazin-1(2H)-one
Following the procedure described in Example 1 step D, 4-(4-chlorophenyl)-N-(3-methoxy-4-(2-oxo-2-(pyrrolidin-1-yl)ethoxy)phenyl)-1H-pyrrole-2-carboxamide (11 mg) was alkylated with 1,2-dibromoethane to yield 9.2 mg of the title compound. MS (ESI) 480 (M+H)+.

reactant | 4-(4-chlorophenyl)-N-(3-methoxy-4-(2-oxo-2-(pyrrolidin-1-yl)ethoxy)phenyl)-1H-pyrrole-2-carboxamide | 11 mg | ClC1=CC=C(C=C1)C=1C=C(NC1)C(=O)NC1=CC(=C(C=C1)OCC(N1CCCC1)=O)OC | C24H24ClN3O4
reactant | 1,2-dibromoethane | BrCCBr | C2H4Br2
product | 7-(4-chlorophenyl)-2-(3-methoxy-4-(2-oxo-2-(pyrrolidin-1-yl)ethoxy)phenyl)-3,4-dihydropyrrolo[1,2-a]pyrazin-1(2H)-one | 9.2 mg | ClC1=CC=C(C=C1)C=1C=C2N(CCN(C2=O)C2=CC(=C(C=C2)OCC(N2CCCC2)=O)OC)C1 | C26H26ClN3O4
